US07713993B2
Synthesis of 5-chloro-2-phenylpentanoic Acid Hydrazide
A solution of methyl phenylacetate (2.0 g) in DMF (5 mL) was added to a solution of sodium hydride (containing mineral oil at 40%, 590 mg) in DMF (20 mL) under ice-cooling. The reaction solution was stirred for 10 minutes, further stirred at room temperature for 30 minutes and then ice-cooled again. A solution of 1-chloro-3-iodopropane (2.99 g) in DMF (5 mL) was added to the reaction mixture, and the reaction solution was stirred at room temperature overnight. Water and ethyl acetate were added to the reaction mixture, and the organic layer was separated. The resulting organic layer washed with saturated aqueous sodium chloride, dried over anhydrous magnesium sulfate and then concentrated under reduced pressure to obtain a crude product of methyl 5-chloro-2-phenylpentanoate. Hydrazine monohydrate (8 mL) was added to a solution of the resulting crude methyl 5-chloro-2-phenylpentanoate (3.279 g) in ethanol (20 mL), and the reaction solution was stirred at room temperature overnight. The reaction solution was concentrated under reduced pressure. Saturated sodium bicarbonate water and ethyl acetate and were added to the residue, and the organic layer was separated. The resulting organic layer washed with saturated aqueous sodium chloride, dried over anhydrous magnesium sulfate and then concentrated under reduced pressure. The resulting residue was purified by silica gel column chromatography (elution solvent: heptane-ethyl acetate system) to obtain 730 mg of the title compound. The property values of the compound are as follows.

reactant | Hydrazine monohydrate | 8 mL | O.NN
reactant | methyl 5-chloro-2-phenylpentanoate | 3.279 g | ClCCCC(C(=O)OC)C1=CC=CC=C1 | C12H15ClO2
solvent | ethanol | 20 mL | C(C)O | C2H6O
product | 5-chloro-2-phenylpentanoic Acid Hydrazide | 730 mg | ClCCCC(C(=O)NN)C1=CC=CC=C1 | C11H15ClN2O
